US07192968B2
(±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(thiophen-2-yl)sulfonyl]-1,2-cyclohexanediamine
(±)-cis-N-[(5-Chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride (200 mg) was dissolved in N,N-dimethylformamide (1 ml), and triethylamine (0.28 ml) and 2-thiophenesulfonyl chloride (111 mg) were added to stir the mixture for 75 minutes. Water was added to the reaction mixture, and deposit was collected by filtration and recrystallized from methanol to obtain the title compound (198 mg) as colorless crystals.

reactant | (±)-cis-N-[(5-Chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | 200 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](CCCC1)N
reactant | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | 2-thiophenesulfonyl chloride | 111 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(thiophen-2-yl)sulfonyl]-1,2-cyclohexanediamine | 198 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](CCCC1)NS(=O)(=O)C=1SC=CC1 | C19H20ClN3O3S2
